Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
Left distal tibia pathologic fracture
 
Major Surgical or Invasive Procedure:
___: Open reduction internal fixation left distal tibia.

 
History of Present Illness:
___ ___ speaking female with history of HTN, HL, DMII, CKD,
and diffuse cell B-cell lymphoma (on cycle 4, day 14 of R-CHOP)
s/p Cyberknife to brain lesion, who presents with pathologic
fracture of her left tibia and fibula.

The pt was recently discharged from ___ after presented from a
SNF with acute pathologic fracture of her distal tibia and
resorption of distal fibula. She was felt to not be a surgical
candidate given poor bone and tissue integrity, and was fitted
with a bivalve cast. Her lymphoma was felt to be 
chemoresponsive,
so no radiation. She was discharged to rehab and continued on
Fondaparinux for DVT prophylaxis. 

She presented to ___ clinic with significant worsening of
the fracture, so was direct admitted from ___ clinic with plan
for ORIF distal tibia. 

 
Past Medical History:
- Diffuse large B cell lymphoma
- Glaucoma  
- DM2 seen by ___  
- Chronic kidney disease  
- Hyperlipidemia  
- Hypertension  
- Osteoarthritis  
- Iron def anemia  
- s/p bilateral TKR  

 
Social History:
___
Family History:
- Brother with brain cancer diagnosed in his ___  
- No family history of premature CAD, SCD, stroke.  

 
Physical Exam:
PE: Alert and Oriented
Calm and comfortable appearing
Regards examiner appropriately
AVSS.
CV: RRR, nl S1, S2.
PULM: CTA B/L.
ABD: Soft, NT, ND.

LLE:
Compartments soft and nontender
Distal pulses 2+
Saph Sural DPN SPN MPN LPN SILT
Quad ___ FHS ___ TA PP Fire
No lacerations or wounds 

 
Pertinent Results:
___ 04:55AM BLOOD WBC-4.8 RBC-3.62* Hgb-11.9* Hct-34.1* 
MCV-94 MCH-33.0* MCHC-35.0 RDW-18.5* Plt ___
___ 06:35AM BLOOD WBC-4.7 RBC-3.65*# Hgb-11.8*# Hct-33.5* 
MCV-92 MCH-32.5* MCHC-35.3* RDW-19.0* Plt ___
___ 04:45PM BLOOD WBC-3.5* RBC-2.57* Hgb-8.3* Hct-25.0* 
MCV-97 MCH-32.3* MCHC-33.1 RDW-20.0* Plt ___
___ 06:25PM BLOOD WBC-6.2# RBC-3.16* Hgb-10.5* Hct-30.3* 
MCV-96 MCH-33.1* MCHC-34.6 RDW-19.7* Plt ___
___ 06:35AM BLOOD Glucose-135* UreaN-12 Creat-0.7 Na-139 
K-4.0 Cl-103 HCO3-27 AnGap-13
___ 05:00AM BLOOD Glucose-166* UreaN-13 Creat-0.7 Na-139 
K-4.2 Cl-104 HCO3-27 AnGap-12
___ 04:45PM BLOOD Glucose-118* UreaN-13 Creat-0.7 Na-139 
K-4.1 Cl-104 HCO3-25 AnGap-14
___ 05:30AM BLOOD Glucose-174* UreaN-16 Creat-0.7 Na-139 
K-4.5 Cl-102 HCO3-30 AnGap-12
___ 06:25PM BLOOD Glucose-128* UreaN-13 Creat-0.7 Na-139 
K-4.0 Cl-102 HCO3-28 AnGap-13
___ 04:45PM BLOOD Calcium-9.1 Phos-3.7 Mg-1.7
___ 05:30AM BLOOD Calcium-9.6 Phos-4.0 Mg-2.0
___ 06:25PM BLOOD Calcium-9.6 Phos-4.0 Mg-1.9
 
Brief Hospital Course:
Ms. ___ was admitted to the Orthopedic service on ___ 
from the ___ clinic for a left distal tibia pathologic 
fracture.  On ___ she underwent open reduction internal 
fixation of the left distal tibia without complication.  The 
patient was out of bed with physical therapy and continues to 
improve. Dr. ___ oncology team were consulted and it 
was agreed that the patient would be monitored over the weekend. 
She remained stable and is cleared for discharge to an extended 
care facility. 
 
Medications on Admission:
Lantus 12 unit qhs  
Folate 1 mg daily  
Arixtra 2.5 daily  
Keppra 250 mg bid  
MVI daily  
Miralax  
Senna qhs  
acyclovir 400 mg tid  
allopurinol ___ mg daily  
Vitamin C 500 mg daily  
Clotrimazole every 6 hours  
Vitamin B12 1000 mc daily  
Colace 200 mg daily qhs  
Tylenol ___ mg po q4h prn fever/pain  
Lactulose daily prn constipation  
Bactrim SS daily  
Prilosec 40 mg daily  

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.  
2. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO BID (2 times a day) as needed for Constipation.  
3. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. fondaparinux 2.5 mg/0.5 mL Syringe Sig: One (1)  Subcutaneous 
DAILY (Daily).  
6. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily) as needed for Constipation.  
7. levetiracetam 250 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for Constipation.  
10. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*100 Tablet(s)* Refills:*0*
15. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Left Distal Tibia Pathologic Fracture. 
Post operative blood loss anemia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Wound Care: 
-Keep Incision dry. 
-Do not soak the incision in a bath or pool.

Activity: 
-Continue to be touch down weight bearing on your left leg.  
-Elevate left leg to reduce swelling and pain.
-Do not remove splint.  Keep splint dry.

Other Instructions
- Resume your regular diet. 
- Avoid nicotine products to optimize healing. 

- Resume your home medications. Take all medications as 
instructed. 

- Continue taking the Lovenox to prevent blood clots.

-You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___ 2. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
Activity: Touch down weight bearing LLE
Treatments Frequency:
None.
 
Followup Instructions:
___